US09359305B2
Compound number 49 (i.e., 6-chloro-5-(2,3-dichlorophenoxy)-2-trifluoromethylthiobenzimidazole) was prepared as follows. A solution of 5-chloro-6-(2,3-dichlorophenoxy)-2,3-dihydro-1H-1,3-benzodiazole-2-thione (200 mg, 0.58 mmol, 1.00 equiv) in N,N-dimethylformamide (20 mL) and potassium carbonate (120 mg, 0.87 mmol, 1.50 equiv) was placed into a 50-mL 3-necked round-bottom flask. The mixture was sustained by aeration with trifluoro(iodo)methane. The resulting solution was stirred for 2 h at 130° C. in an oil bath. The resulting solution was diluted with 50 ml of water. The resulting solution was extracted with 2×80 ml of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×100 mL of brine. The mixture was dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with EA/PE (1:15). This resulted in 81.0 mg (34%) of 6-chloro-5-(2,3-dichlorophenoxy)-2-trifluoromethylthiobenzimidazole as an off-white solid.

reactant | 5-chloro-6-(2,3-dichlorophenoxy)-2,3-dihydro-1H-1,3-benzodiazole-2-thione | 0.58 mmol, 200 mg, 1.00 equiv | ClC1=CC2=C(NC(N2)=S)C=C1OC1=C(C(=CC=C1)Cl)Cl | C13H7Cl3N2OS
reactant | potassium carbonate | 0.87 mmol, 120 mg, 1.50 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoro(iodo)methane | FC(I)(F)F | CF3I
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 6-chloro-5-(2,3-dichlorophenoxy)-2-trifluoromethylthiobenzimidazole | ClC=1C(=CC2=C(N=C(N2)SC(F)(F)F)C1)OC1=C(C(=CC=C1)Cl)Cl | C14H6Cl3F3N2OS
